US07425634B2
(2f) 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole
The 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole (629 mg, 1.58 mmol) obtained by the step (2e) was mixed with methanol (5 ml) and toluene (15 ml) and the mixture was cooled to −50° C. Then, 3-chloroperbenzoic acid (378 mg, 1.42 mmol as the content was regarded as 65%) dissolved in a solvent mixture of methanol and toluene was slowly added dropwise to the mixture, and stirred at −47° C. to −70° C. for 4 hours. A saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over potassium carbonate, and the solvent was distilled off. The residue was purified with silica gel column chromatography (NH silica gel: 40 g, elution solvent: dichloromethane/heptane=7/3→methanol/dichloromethan=3/97 to 1/9) to obtain the title compound (623 mg, yield: 95.4%) as a colorless foam.

reactant | 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 1.58 mmol, 629 mg | C1CC12COC(OC2)COC2=C(C(=NC=C2)CSC2=NC1=C(N2)C=CC=C1)C | C21H23N3O3S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 5 ml | CO | CH4O
product | 2-(((4-(5,7-dioxaspiro[2.5]oct-6-ylmethoxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole | 623 mg, yield: 95.4% | C1CC12COC(OC2)COC2=C(C(=NC=C2)CS(=O)C2=NC1=C(N2)C=CC=C1)C | C21H23N3O4S
